US07534792B2
250A. (S)-4,4-difluoropyrrolidine-2-carboxylic acid
To a solution of (S)-1-(tert-butoxycarbonyl)-4,4-difluoropyrrolidine-2-carboxylic acid (500 mg, 1.99 mmol) in methanol (30 mL) was added 4N HCl dioxane (3 mL). The reaction mixture was stirred at rt for 6 h. Concentration gave an oil which was used for the next step without purification (480 mg, 100%). 1H NMR (CD3OD, 400 MHz) δ 4.76 (1H, t, J=8.5 Hz), 3.79-3.87 (2H, m), 2.91-3.03 (1H, m), 2.73-2.82 (1H, m).

reactant | (S)-1-(tert-butoxycarbonyl)-4,4-difluoropyrrolidine-2-carboxylic acid | 1.99 mmol, 500 mg | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)(F)F)C(=O)O | C10H15F2NO4
reactant | HCl dioxane | 4N, 3 mL | O1CCOCC1.Cl
solvent | methanol | 30 mL | CO | CH4O
product | (S)-4,4-difluoropyrrolidine-2-carboxylic acid | FC1(C[C@H](NC1)C(=O)O)F | C5H7F2NO2
